US04379166
A. 5-(2-(4-Benzyloxy-2-Butylamino)-1-Hydroxyethyl)Salicylamide
Combine 4-benzyloxy-2-butanone (2.6 g, 15 mmol) with 5-(2-amino-1-hydroxyethyl)salicylamide (15 mmol in methanol, 50 ml) and treat with sodium cyanoborohydride (0.9 g, 15 mmol). Let stand 16 hours, evaporate the solvent and extract the residue in ethyl acetate/ 1N sodium bicarbonate solution. Separate the organic phase, dry over sodium sulfate and evaporate in vacuo.

reactant | 4-benzyloxy-2-butanone | 15 mmol, 2.6 g | C(C1=CC=CC=C1)OCCC(C)=O | C11H14O2
reactant | 5-(2-amino-1-hydroxyethyl)salicylamide | 15 mmol, 50 ml | NCC(O)C1=CC=C(C(C(=O)N)=C1)O | C9H12N2O3
reactant | sodium cyanoborohydride | 15 mmol, 0.9 g | C(#N)[BH3-].[Na+]
product | 5-(2-(4-Benzyloxy-2-Butylamino)-1-Hydroxyethyl)Salicylamide | C(C1=CC=CC=C1)OCCC(C)NCC(O)C1=CC=C(C(C(=O)N)=C1)O | C20H26N2O4
